US06184236B2
Following the general procedure of example 40b, DL-homophenylalanine (5.0 g, 27.9 mmol) was reduced with LiAlH4 to give (RS)-2-amino-4-phenyl-butan-1-ol (3.6 g, 78%, MS: m/e=166 (M+H+)) as a light yellow solid.

reactant | DL-homophenylalanine | 27.9 mmol, 5.0 g | NC(CCC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | (RS)-2-amino-4-phenyl-butan-1-ol | 3.6 g, 78% | NC(CO)CCC1=CC=CC=C1 | C10H15NO
